US05438052
2-(Chloromethyl)-5-methyl-s-triazolo[1.5-a]pyrimidin-7-ol (1.0 g) (known from C.A. 104/09-068678) is dissolved in 20 ml of conc. aqueous ammonia and stirred at room temperature overnight. The precipitate formed is filtered off under suction. The mother liquor is concentrated and the residue is taken up in ethanol. The product thereby crystallizes. There is obtained 0.66 g of 2-(aminomethyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-ol as a white powder of m.p. 204°-207° C.

reactant | 2-(Chloromethyl)-5-methyl-s-triazolo[1.5-a]pyrimidin-7-ol | 1.0 g | ClCC1=NN2C(N=C(C=C2O)C)=N1 | C7H7ClN4O
reactant | ammonia | 20 ml | N | H3N
product | 2-(aminomethyl)-5-methyl-s-triazolo[1,5-a]pyrimidin-7-ol | 0.66 g | NCC1=NN2C(N=C(C=C2O)C)=N1 | C7H9N5O
